US07253286B2
N6-Ethyl-4-(3-chloro-4-(((cyclopropylamino)carbonyl)amino)phenoxy)-7-((2R)oxiran-2-yl)methoxy-6-quinolinecarboxamide
The title compound (235.4 mg, 0.474 mmol, 47.4%) was obtained as light yellow crystals from N6-ethyl-4-(3-chloro-4-(((cyclopropylamino)carbonyl)amino)phenoxy)-7-hydroxy-6-quinolinecarboxamide) (440.9 mg, 1.00 mmol) and (2R)oxiran-2-ylmethyl 4-methyl-1-benzenesulfonate, by the same procedure as in Example 7.

reactant | N6-ethyl-4-(3-chloro-4-(((cyclopropylamino)carbonyl)amino)phenoxy)-7-hydroxy-6-quinolinecarboxamide | C(C)NC(=O)C=1C=C2C(=CC=NC2=CC1O)OC1=CC(=C(C=C1)NC(=O)NC1CC1)Cl | C22H21ClN4O4
reactant | (2R)oxiran-2-ylmethyl 4-methyl-1-benzenesulfonate | CC1=CC=C(C=C1)S(=O)(=O)OC[C@@H]1OC1 | C10H12O4S
product | N6-Ethyl-4-(3-chloro-4-(((cyclopropylamino)carbonyl)amino)phenoxy)-7-((2R)oxiran-2-yl)methoxy-6-quinolinecarboxamide | 0.474 mmol, 235.4 mg, 47.4% | C(C)NC(=O)C=1C=C2C(=CC=NC2=CC1OC[C@@H]1OC1)OC1=CC(=C(C=C1)NC(=O)NC1CC1)Cl | C25H25ClN4O5
